US07253286B2
6-((6,7-Dimethoxy-4-quinolyl)oxy)-3-pyridinamine
6,7-Dimethoxy-4-((5-nitro-2-pyridyl)oxy)quinoline (654 mg, 2.00 mmol), iron powder(559 mg, 10.0 mmol) and ammonium chloride (.1.07 g, 20.0 mmol) were heated and stirred in methanol (20 ml)-water (5 ml) at 80° C. for 20 minutes. After completion of the reaction, the reaction mixture was filtered with celite and washed in ethyl acetate. After washing the organic layer with water and saturated brine and drying over anhydrous magnesium sulfate, the drying agent was filtered out and the filtrate was distilled off under reduced pressure. The obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals. were filtered out and washed with ethyl acetate and then blow-dried to obtain the title compound (380 mg, 1.28 mmol, 64%) as light yellow crystals.

reactant | 6,7-Dimethoxy-4-((5-nitro-2-pyridyl)oxy)quinoline | 2.00 mmol, 654 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H13N3O5
reactant | ammonium chloride | 20.0 mmol, 1.07 g | [Cl-].[NH4+]
reactant | water | 5 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | iron | 10.0 mmol, 559 mg | [Fe] | Fe
product | 6-((6,7-Dimethoxy-4-quinolyl)oxy)-3-pyridinamine | 1.28 mmol, 380 mg, 64% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=N1)N | C16H15N3O3
